US05968962
Step 3: (R)-4-Fluoro-4-[4-[5-(hydroxymethyl)-2-oxo-3-oxazolidinyl]-2-fluorophenyl]-1-piperidinecarboxylic acid phenylmethyl ester
A solution of 4-fluoro-4-[4-[[(phenylmethoxy)carbonyl]amino]-2-fluorophenyl]-1-piperidinecarboxylic acid phenylmethyl ester (EXAMPLE 74, Step 2, 2.03 g, contaminated with the elimination side product) in dry tetrahydrofuran (21 mL) at -78° C. under N2 is treated with n-butyllithium (2.80 mL, 1.6M in hexanes) dropwise over 5 mins. The resulting mixture is stirred at -78° C. for 1.25 hrs and is then treated with (R)-(-)-glycidyl butyrate (0.63 mL) dropwise. The resulting solution is stirred at -78° C. for 1 hr, warmed to ambient temperature and stirred for an additional 20 hrs, after which the reaction is quenched with saturated aqueous ammonium chloride (10 mL), diluted with water (10 mL), and the layers are separated. The organic phase is washed with saline (10 mL), dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give the crude product which is chromatographed on silica gel (230-400 mesh, 250 g), eluting with methanol/methylene chloride (3/97). Pooling and concentration of those fractions with an Rf =0.51 by TLC (methanol/chloroform, 10/90) and repurification by silica gel chromatography (230-400 mesh, 100 g, methanol/methylene chloride (4/96) eluent) gives the title compound (contaminated with the elimination side product from the starting material). An analytical sample is prepared by radial chromatography (2000μ silica gel rotor, ethyl acetate/hexane (60/40) eluent), NMR (400 MHz, CDCl3) 7.45, 7.34, 7.18, 5.16, 4.74, 4.17, 3.97, 3.72, 3.22, 2.25 and 1.90 δ and HRMS calculated for C23H24F2N2O5 : 446.1653. Found: 446.1660.

reactant | 4-fluoro-4-[4-[[(phenylmethoxy)carbonyl]amino]-2-fluorophenyl]-1-piperidinecarboxylic acid phenylmethyl ester | C1(=CC=CC=C1)COC(=O)N1CCC(CC1)(C1=C(C=C(C=C1)NC(=O)OCC1=CC=CC=C1)F)F | C27H26F2N2O4
reactant | n-butyllithium | 1.6M, 2.80 mL | C(CCC)[Li]
reactant | (R)-(-)-glycidyl butyrate | 0.63 mL | C(CCC)(=O)OC[C@H]1CO1 | C7H12O3
solvent | tetrahydrofuran | 21 mL | O1CCCC1 | C4H8O
product | (R)-4-Fluoro-4-[4-[5-(hydroxymethyl)-2-oxo-3-oxazolidinyl]-2-fluorophenyl]-1-piperidinecarboxylic acid phenylmethyl ester | C1(=CC=CC=C1)COC(=O)N1CCC(CC1)(C1=C(C=C(C=C1)N1C(O[C@H](C1)CO)=O)F)F | C23H24F2N2O5
